US08981085B2
A mixture of (S)—N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-2-carboxamide (195 mg, 0.594 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (357 mg, 1.78 mmol), and N-ethyl-N-isopropylpropan-2-amine (207 μL, 1.19 mmol) in n-BuOH (5 mL) were purged under N2 and stirred at 160° C. in a sealed tube for 16 hours. The solvent was then removed in vacuo, and the residue obtained was purified by C-18 reverse phase column chromatography (Biotage Flash 25M+; C-18) on Biotage SP4 unit eluting with a gradient of 15-90% CH3CN/water (25 CV) to provide tert-butyl (R)-1-(5-bromo-3-((S)-tetrahydrofuran-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (150 mg, 0.295 mmol, 49.6% yield) as a solid. LCMS (APCI+) m/z 508.1, 510.1 (M+H)+; Retention time=3.85 minutes (Method 2).

reactant | (S)—N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-2-carboxamide | 0.594 mmol, 195 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)[C@H]2OCCC2)F | C12H11BrFN3O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.78 mmol, 357 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.19 mmol, 207 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | tert-butyl (R)-1-(5-bromo-3-((S)-tetrahydrofuran-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.295 mmol, 150 mg, 49.6% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)[C@H]2OCCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H30BrN5O4
